US04258181
1,4-Dimethoxy-9,10-anthracenedicarboxaldehyde
A mixture of isomers of 1,4-dimethoxy-11,12-dihydroxy-9,10-ethano-anthracene weighing 10 g. is dissolved in 150 ml. of glacial acetic acid at 50° C. and treated portionwise with 30 g. of lead tetraacetate. After 2 hours at 50° C., the solution is filtered to remove insoluble materials and cooled yielding orange crystals, which are filtered, washed with glacial acetic acid and dried, m.p. 208°-212° C.

reactant | 1,4-dimethoxy-11,12-dihydroxy-9,10-ethano-anthracene | 10 g | COC1=CC=C(C2=C3C4=CC=CC=C4C(=C12)C(C3O)O)OC | C18H16O4
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4-Dimethoxy-9,10-anthracenedicarboxaldehyde | COC1=CC=C(C2=C(C3=CC=CC=C3C(=C12)C=O)C=O)OC | C18H14O4
